US04602014
A mixture of 5.44 g of ethyl 4-chloro-5,6,7,8-tetrahydroquinoline-3-carboxylate and 3.45 g of 4-methoxyphenylhydrazine is refluxed 18 hrs in 100 ml toluene. The resulting mixture is stirred with 50 ml 1N NaOH, the layers separated, and the aqueous phase extracted twice with ether. The aqueous layer is then neutralized with aqueous ammonium chloride and filtered. The product is washed with water, and dried to give 2-(4-methoxyphenyl)-2,3,6,7,8,9-hexahydropyrazolo[4,3-c]quinolin-3(5H)-one m.p. 279°-282°.

reactant | ethyl 4-chloro-5,6,7,8-tetrahydroquinoline-3-carboxylate | 5.44 g | ClC1=C(C=NC=2CCCCC12)C(=O)OCC | C12H14ClNO2
reactant | 4-methoxyphenylhydrazine | 3.45 g | COC1=CC=C(C=C1)NN | C7H10N2O
reactant | NaOH | 1N, 50 ml | [OH-].[Na+]
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | 2-(4-methoxyphenyl)-2,3,6,7,8,9-hexahydropyrazolo[4,3-c]quinolin-3(5H)-one | COC1=CC=C(C=C1)N1N=C2C(=CNC=3CCCCC23)C1=O | C17H17N3O2
